US07834021B2
N-(2-{[(3R)-1-(5-Hydroxy-5-pyridin-3-ylbicyclo[2.2.2]oct-2-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide.
N-{2-Oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide hydrochloride (100 mg, 0.284 mmol) and 5-hydroxy-5-pyridin-3-ylbicyclo[2.2.2]octan-2-one (62.0 mg, 0.284 mmol) were dissolved in dry THF (10 mL). Triethylamine (80 uL, 0.57 mmol) and sodium triacetoxyborohydride (120 mg, 0.57 mmol) were added and the mixture was stirred at room temperature overnight. TLC indicated conversion to desired products in about a 1:1 ratio of isomers. Adsorbed reaction mixture onto silica gel and chromatographed eluting with dichloromethane to 10% methanol/dichloromethane/0.5% ammonium hydroxide. Fractions were combined to give pure higher Rf isomer and pure lower Rf isomer: Higher Rf product: LC/MS (positive ion) m/z=517.1 (M+H)+; Lower Rf product: LC/MS (positive ion) m/z=517.2 (M+H)+.

reactant | N-{2-Oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide hydrochloride | 0.284 mmol, 100 mg | Cl.O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CNCC1
reactant | 5-hydroxy-5-pyridin-3-ylbicyclo[2.2.2]octan-2-one | 0.284 mmol, 62.0 mg | OC1(C2CC(C(C1)CC2)=O)C=2C=NC=CC2 | C13H15NO2
reactant | Triethylamine | 0.57 mmol, 80 uL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.57 mmol, 120 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(2-{[(3R)-1-(5-Hydroxy-5-pyridin-3-ylbicyclo[2.2.2]oct-2-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | OC1(C2CC(C(C1)CC2)N2C[C@@H](CC2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=2C=NC=CC2 | C27H31F3N4O3
